US07867629B2
Dissolving 5.0 g (23 mmol) of 4′-bromopropiophenon into 50 milliliter of acetic acid, and adding 3.7 g (23 mmol) of bromine while cooling with ice, stirred at the temperature of 10° C. for 3 hours. After the color of bromine disappeared, adding water and an extraction was carried out using dichloro-methane. Washing the organic layer with water, it was dried with the use of sodium sulfate. The solvent was removed by distillation and the resultant crystals were washed with hexane thereby obtaining 4.3 g of 2,4′-dibromopropiophenon (yield: 63%).

reactant | 4′-bromopropiophenon | 23 mmol, 5.0 g | BrC1=CC=C(C=C1)C(CC)=O | C9H9BrO
reactant | acetic acid | 50 milliliter | C(C)(=O)O | C2H4O2
reactant | bromine | 23 mmol, 3.7 g | BrBr | Br2
solvent | water | O | H2O
product | 2,4′-dibromopropiophenon | 4.3 g, yield: 63% | BrC(C(=O)C1=CC=C(C=C1)Br)C | C9H8Br2O
